US07317025B2
trans-N-(1-Benzyl-piperidin-4-yl)-N-(2,3-dihydro-1H-indol-6-yl)-3-phenyl-acrylamide
6-Amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester. To a mixture of 6-nitroindoline (2 mmol) and TEA (2.2 mmol) in CH2Cl2 (20 mL) was added di-tert-butyl dicarbonate (2 mmol). The mixture was stirred at 25° C. for 16 h. The mixture was washed with satd. aq. NaHCO3 (20 mL) and brine (20 mL), and then was dried and concentrated. The residue was dissolved in MeOH (4 mL), and FeCl3.6H2O (7 mg), Me2NNH2 (21 mmol), and charcoal (50 mg) were added. The resulting mixture was heated at reflux for 4 h. The mixture was filtered through diatomaceous earth and the filtrate was concentrated to obtain the desired compound in quantitative yield. Step B. 6-(1-Benzyl-piperidin-4-ylamino)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester. 1 -Benzyl-4-piperidone (1 mmol) was stirred with 6-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (1.2 mmol), Na(OAc)3BH (1.3 mmol) and AcOH (1 mmol) in CH2Cl2 (20 mL). The resulting mixture was stirred at 25° C. for 16 h. The mixture was washed with satd. aq. NaHCO3 (20 mL), and the organic layer was dried and concentrated to provide the crude desired compound. Step C. trans-6-[(1-Benzyl-piperidin-4-yl)-(3-phenyl-acryloyl)-amino]-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester. To a solution of the product of Step B (1 mmol) in CH2Cl2 (10 mL) was added cinnamoyl chloride (1 mmol) and TEA (1.1 mmol). The resulting mixture was stirred at 25° C. for 16 h. The mixture was washed with satd aq. NaHCO3 (20 mL), and the organic layer was dried and concentrated. After purification by silica gel chromatography, the desired compound was obtained (60%). Step D. To a solution of the product of Step C (1 mmol) in CH2Cl2 (10 mL) was added TFA (1 mL). The mixture was stirred at 25° C. for 16 h. After concentration, the title compound was obtained as its TFA salt in quantitative yield. 1H NMR (500 MHz, CDCl3): 9.78 (s, 1H), 7.65 (d, J=15.5 Hz, 1H), 7.46-7.23 (m, 12H), 7.08 (d, J=8.3 Hz, 1H), 6.13 (d, J=15.5 Hz, 1H), 4.99-4.95 (br m, 1H), 4.15-3.95 (m, 4H), 3.40-3.31 (m, 4H), 3.02-2.88 (br m, 2H), 2.11-1.56 (m, 4H). MS: exact mass calculated for C29H31N3O, 437.25; m/z found, 438.3 [M+H]+.

reactant | 6-(1-Benzyl-piperidin-4-ylamino)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)NC1CCN(CC1)CC1=CC=CC=C1 | C25H33N3O2
reactant | 1 -Benzyl-4-piperidone | 1 mmol | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 6-amino-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 1.2 mmol | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)N | C13H18N2O2
reactant | Na(OAc)3BH | 1.3 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 1 mmol | CC(=O)O | C2H4O2
reactant | trans-6-[(1-Benzyl-piperidin-4-yl)-(3-phenyl-acryloyl)-amino]-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)N(C(\C=C\C1=CC=CC=C1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C34H39N3O3
reactant | cinnamoyl chloride | 1 mmol | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | trans-N-(1-Benzyl-piperidin-4-yl)-N-(2,3-dihydro-1H-indol-6-yl)-3-phenyl-acrylamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C(\C=C\C1=CC=CC=C1)=O)C1=CC=C2CCNC2=C1 | C29H31N3O
